US07495018B2
2-amino-1-methyl-2-oxoethyl benzoate
To a solution of 2-hydroxypropionamide (10.8 g, 121 mmol) in pyridine (40 mL) was added benzoyl chloride (14.2 mL, 122 mmol) at 0° C. and the reaction mixture was allowed to warm up to room temperature. The resulting mixture was stirred at room temperature for 3 hours and the solvent was removed under reduced pressure to give a residue. To the residue an aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The extracts were washed with an 1N hydrochloric acid twice and brine. The organic solution was dried, and concentrated under reduced pressure. The obtained crude crystal was recrystallized from ethyl acetate-hexane to give a title compound (17.9 g, yield 77%).

reactant | 2-hydroxypropionamide | 121 mmol, 10.8 g | OC(C(=O)N)C | C3H7NO2
reactant | benzoyl chloride | 122 mmol, 14.2 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 2-amino-1-methyl-2-oxoethyl benzoate | 17.9 g, yield 77% | C(C1=CC=CC=C1)(=O)OC(C(=O)N)C | C10H11NO3
